US07622583B2
To a magnetically stirred solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-(trifluoromethyl)-benzenesulfonamide (1.5 g, 3.03 mmol) in anhydrous THF (15 mL) was added 2 M isopropylmagnesium chloride in THF (3.3mL, 6.6 mmol) at −20° C. The temperature was allowed to slowly rise to 10° and then 2-chloro-N-methoxy-N-methylbenzamide (1.2 g, 6.0 mmol) was added and the progress of the reaction was followed by LCMS. The reaction mixture was warmed to room temperature and stirred for 16 h. It was then quenched with saturated aqueous NH4Cl (50 mL), and extracted with ethyl acetate (3×100 mL). The combined extracts were dried (MgSO4), filtered and concentrated. The residue was purified by chromatography on silica gel using ethyl acetate-hexane mixtures (2:98, 5:95) to provide 4-chloro-N-[5-chloro-2-(2-chloro-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide mass spectrum m/z 574.8 (M+Na); 521.0 (M−31).

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-(trifluoromethyl)-benzenesulfonamide | 3.03 mmol, 1.5 g | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | 2-chloro-N-methoxy-N-methylbenzamide | 6.0 mmol, 1.2 g | ClC1=C(C(=O)N(C)OC)C=CC=C1 | C9H10ClNO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 6.6 mmol, 3.3mL | C1CCOC1 | C4H8O
product | 4-chloro-N-[5-chloro-2-(2-chloro-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)Cl)=O)C(F)(F)F | C21H14Cl3F3N2O4S
